US04501698
Derwent Abstract 48681A briefs a Japanese Patent Publication No. 59696/78, published May 29, 1978, disclosing the ring closure of 2',5-dichloro-2-[3-(dimethylaminomethyl)-5-mesyloxymethyl-4H-1,2,4-triazol-4-yl]benzophenone in a sealed tube with ammonia containing methanol to obtain 8-chloro-6-(2-chlorophenyl)-1-[(dimethylamino)methyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine. However, sealed tube procedures are not practical for commercial scale chemical process operations, and the abstract does not disclose how the (3-hydroxymethyl-triazol-4-yl)-compounds are obtained.

reactant | 2',5-dichloro-2-[3-(dimethylaminomethyl)-5-mesyloxymethyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1COS(=O)(=O)C)CN(C)C)=O | C20H20Cl2N4O4S
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 8-chloro-6-(2-chlorophenyl)-1-[(dimethylamino)methyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(C)C)C3=C(C=CC=C3)Cl)C1 | C19H17Cl2N5
